US07531576B2
Using n-heptylamine (192 mg), [[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl] bromide (843 mg) and cyclohexyl isocyanate (230 mg), N-cyclohexyl-N′-heptyl-N′-[[2′-[N-(triphenylmethyl)tetrazol-5-yl)-1,1′-biphenyl-4-yl]methyl]urea (0.53 g) was obtained in a similar manner as in Example 5. Yield: 49%.

reactant | n-heptylamine | 192 mg | C(CCCCCC)N | C7H17N
reactant | [[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl] bromide | 843 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | cyclohexyl isocyanate | 230 mg | C1(CCCCC1)N=C=O | C7H11NO
product | N-cyclohexyl-N′-heptyl-N′-[[2′-[N-(triphenylmethyl)tetrazol-5-yl)-1,1′-biphenyl-4-yl]methyl]urea | 0.53 g, Yield: 49% | C1(CCCCC1)NC(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCC | C47H52N6O
